US08314091B2
E: (R)—N-sec-Butyl-3-((4-(3-fluoro-4-(3-neopentylureido)benzoyl)piperazin-1-yl)methyl)benzamide
To a stirred solution of bis(trichloromethyl) carbonate (0.989 mmol, 0.294 g) in dichloromethane (30 mL) was added (R)-3-((4-(4-amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-sec-butylbenzamide (2.91 mmol, 1.2 g) and N-ethyl-N-isopropylpropan-2-amine (6.40 mmol, 1.058 mL, 0.827 g) in dichloromethane (30 mL). The reaction mixture was stirred for 1 hour then 2,2-dimethylpropan-1-amine (3.49 mmol, 0.408 ml, 0.304 g) was added. After 2 hours stirring, the crude material was purified by acidic reverse phase LC/MS then by silica chromatography to give the title compound (25 mg).

reactant | bis(trichloromethyl) carbonate | 0.989 mmol, 0.294 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | (R)-3-((4-(4-amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-sec-butylbenzamide | 2.91 mmol, 1.2 g | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)N[C@H](C)CC)C=CC2)C=C1)F | C23H29FN4O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 6.40 mmol, 1.058 mL, 0.827 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,2-dimethylpropan-1-amine | 3.49 mmol, 0.408 ml, 0.304 g | CC(CN)(C)C | C5H13N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (R)—N-sec-Butyl-3-((4-(3-fluoro-4-(3-neopentylureido)benzoyl)piperazin-1-yl)methyl)benzamide | 25 mg | [C@@H](C)(CC)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC(=C(C=C1)NC(=O)NCC(C)(C)C)F)=O)=O | C29H40FN5O3
